US06489344B1
Preparation of 1-(2,4-Dichlorophenyl)-2-(4-phenylimidazolyl)ethan-1-one
Made using the same procedure as for 1-(2,4-dichlorophenyl)-2-pyrazolylethan-1-one except that 4-phenylimidazole (6.5 g, 44.8 mmol) was used in place of pyrazole. The crude residue was purified on silica gel (50% EtOAc/hexanes) to yield a light yellow solid.

reactant | 1-(2,4-dichlorophenyl)-2-pyrazolylethan-1-one | ClC1=C(C=CC(=C1)Cl)C(CC1=NNC=C1)=O | C11H8Cl2N2O
reactant | 4-phenylimidazole | 44.8 mmol, 6.5 g | C1(=CC=CC=C1)C=1N=CNC1 | C9H8N2
product | 1-(2,4-Dichlorophenyl)-2-(4-phenylimidazolyl)ethan-1-one | ClC1=C(C=CC(=C1)Cl)C(CC=1NC=C(N1)C1=CC=CC=C1)=O | C17H12Cl2N2O
